US05739130
A mixture of 2,3-dihydro-7-hydroxy-9-nitro-6-(1-indolinylcarbonyl)-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzoxazine (2.7 g) and acetic anhydride (0.79 g) in pyridine (4 ml) was stirred at room temperature for 1 hour. The mixture was concentrated in vacuo. The residue containing 2,3-dihydro-7-acetoxy-9-nitro-6-(1-indolinylcarbonyl)-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzoxazine was reduced catalytically in a similar manner to that of Example 22 to give crystals of 2,3-dihydro-7-acetoxy-9-amino-6-(1-indolinylcarbonyl)-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzoxazine (1.7 g).

reactant | 2,3-dihydro-7-hydroxy-9-nitro-6-(1-indolinylcarbonyl)-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzoxazine | 2.7 g | OC1=C(C(N2CCOC=3C2=C1C=C(C3)[N+](=O)[O-])=O)C(=O)N3CCC1=CC=CC=C31 | C20H15N3O6
reactant | acetic anhydride | 0.79 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 2,3-dihydro-7-acetoxy-9-amino-6-(1-indolinylcarbonyl)-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzoxazine | 1.7 g | C(C)(=O)OC1=C(C(N2CCOC=3C2=C1C=C(C3)N)=O)C(=O)N3CCC1=CC=CC=C31 | C22H19N3O5
